US07479502B2
Proceeding as in Reference 21, but substituting 5-formyl-6,2′-dimethoxy-biphenyl-3-sulfonamide and 3-phenylpropionyl chloride, gave 5-formyl-6,2′-dimethoxy-N-(3-phenylpropionyl)-biphenyl-3-sulfonamide.

reactant | 5-formyl-6,2′-dimethoxy-biphenyl-3-sulfonamide | C(=O)C=1C=C(C=C(C1OC)C1=C(C=CC=C1)OC)S(=O)(=O)N | C15H15NO5S
reactant | 3-phenylpropionyl chloride | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
product | 5-formyl-6,2′-dimethoxy-N-(3-phenylpropionyl)-biphenyl-3-sulfonamide | C(=O)C=1C=C(C=C(C1OC)C1=C(C=CC=C1)OC)S(=O)(=O)NC(CCC1=CC=CC=C1)=O | C24H23NO6S
